US04101661
(a) 6-[3-(Aminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride
A stirred suspension of 2.6 g. of 6-[3-(aminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid in 130 ml. of tetrahydrofuran is treated with 1.24 ml. of triethylamine. After a few minutes, the resulting solution is treated with 1.12 ml. of trimethylsilyl chloride and stirred 1 hour at room temperature. The solution is then treated with 1.28 ml. of thionyl chloride and stirred for 2 hours at room temperature. The resulting solution is diluted with 200 ml. of hexane and the precipitate of 6-[3-aminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride is collected by filtration, washed with hexane and dried. The acid chloride is used as such without further purification.

reactant | 6-[3-(aminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid | NS(=O)(=O)C=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O5S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-[3-(Aminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride | NS(=O)(=O)C=1C=C(C=CC1)C=1NC(C(CCl)=CC1)=O | C12H11ClN2O3S
